US04548948
Preparation of 2-acetoxymethyl-3-benzoyl benzaldehyde (D9)
To a stirred solution of crude 1-benzoyl-2-bromomethyl-3-(dibromomethyl)benzene (2.3 g, 5 mmol) in glacial acetic acid (30 ml) was added sodium acetate (4.5 g, 55 mmol) in water (8 ml). The stirred mixture was heated to reflux temperature for sixteen hours, cooled and partitioned between diethylether (100 ml), ethyl acetate (20 ml) and 10% sodium carbonate solution (100 ml). Further solid sodium carbonate was added until effervescence ceased. The organic layer was washed with 10% sodium carbonate solution (30 ml) and brine (30 ml) and dried over sodium sulphate. Removal of the solvent under reduced pressure gave an oil (1.1 g) that was chromatographed (SiO2 (40 g) using (4:1) pentane:ethyl acetate as eluent). This gave 2-acetoxymethyl-3-benzoylbenzaldehyde (0.35 g, 22% from 1-benzoyl-2,3-dimethylbenzene).

reactant | 1-benzoyl-2-bromomethyl-3-(dibromomethyl)benzene | 5 mmol, 2.3 g | C(C1=CC=CC=C1)(=O)C1=C(C(=CC=C1)C(Br)Br)CBr | C15H11Br3O
reactant | sodium acetate | 55 mmol, 4.5 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
product | 2-acetoxymethyl-3-benzoyl benzaldehyde | 1.1 g | C(C)(=O)OCC1=C(C=O)C=CC=C1C(C1=CC=CC=C1)=O | C17H14O4
